datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(CC)[O]1)[C:20]1([NH:21][H])[O]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(CC)[O][C:20]([O]C)=[NH+:21][H] 21=20;20,10=10"
"[H][O+:10](C(C)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C(C8=CC=CC=C8)[O][C:20]([NH]CC)=[NH+:21]CC 21=20;20,10=10"
"CCC1C(O[C:20](=[O:10])N1[H])[H].[O-:21][H]>>CCC1C(O[C:20](N1[H])([O-:10])[O:21][H])[H] 21=20;20,10=10"
"[H][O+:10](C(CC)C(C)C(CC)[NH]1)[C:20]1([NH:21][H])[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(CC)[NH][C:20]([NH]CC)=[NH+:21][H] 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)CCCCCC.[O-:21]CC>>CCC1C(C(O[C:20](N1C)([O-:10])[O:21]CC)C1=CC=CC=C1)CCCCCC 21=20;20,10=10"
"[H][NH+:10](C([H])C(C)C([H])[O]1)[C:20]1([NH:21]CC)[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)C([H])[O][C:20]([NH]CC)=[NH+:21]CC 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])CC)[O-:10])C>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])CC)C 10=20;20,21=21"
"[H][NH:10]C([H])C(C)C(C)[O][C:20]([NH]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C)C(C)[O]1)[C:20]1([NH:21]CC)[NH]C 10=20;20,21=21"
"[NH:10]([H])C(C)C(C)C(C)C(C)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)C(C)C(C)C(C)[NH+:10]1([H]) 10=20;20,21=21"
"[OH:10]C(CC)/C(O)=C([C:20](OCC)=[OH+:21])/O>>[OH:21][C:20]1(OCC)[OH+:10]C(CC)C(O)=C1O 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C)C([H])[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C)C([H])[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][O:10]C([H])C(CC)[NH][C:20]([O][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C(CC)[NH]1)[C:20]1([NH:21][H])[O][H] 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21][H])[O]C(CC)C(CC)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C(CC)C(CC)[NH]2.[H][O:10][H] 21=20;20,10=10"
"CC[O:10][H].[H][O+:21]=[C:20]([S]C)[O]CC.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([O:21][H])([S]C)[O]CC 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C(C)[CH](C)[NH]1 10=20;20,21=21"
"C[S+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[S]2.C[S:10][H] 21=20;20,10=10"
"[H][S:10]C([H])C(CC)[O][C:20]([O]C)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C([H])C(CC)[O]1)[C:20]1([O:21]C)[O]C 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C([H])C(CC)[O][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC 10=20;20,21=21"
"[O-:10]C(C)/C(C)=C([H])\C([H])[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])C([H])=C(C)C(C)[O:10]1 10=20;20,21=21"
"[H][NH+:10](C(C)C([H])C(CC)[NH]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C(CC)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"[H][O:10]C([H])C(C8=CC=CC=C8)[O][C:20]([O][H])=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[O][H] 10=20;20,21=21"
"[O:20]=[C:21](OCCCCCC)O[H].[H][O:10][K]>>[H][O+:10]([K])[C:21]([O-:20])(OCCCCCC)O[H] 10=21;21,20=20"
"[O:20]=[C:21](O[H])O[H].CC[O:10][Li]>>CC[O+:10]([Li])[C:21]([O-:20])(O[H])O[H] 10=21;21,20=20"
"[H][NH:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O]CC 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21]CC)[H])CC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)[H])CC.[O-:21]CC 10=20;20,21=21"
"[H][NH+:10](C([H])C([H])C(CC)[O]1)[C:20]1([NH:21]CC)[O][H].[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C(CC)[O][C:20]([O][H])=[NH+:21]CC 21=20;20,10=10"
"[H][O+:10](C(CC)C(CC)[O]1)[C:20]1([NH:21][H])[NH]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C(CC)[O][C:20]([NH]C)=[NH+:21][H] 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OCCCCCC)C.[O-:21]C1=CC=CC=C1>>CCCCCCN([C:20]([O-:10])(OCCCCCC)[O:21]C1=CC=CC=C1)C 21=20;20,10=10"
"[H][O+:10](C(CC)C([H])C(CC)[NH]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(CC)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"[H][S+:10](C(C9=CC=CC=C9)C([H])[O]1)[C:20]1([O:21][Si](C)(C)(C))[S]CC.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C([H])[O][C:20]([S]CC)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"C[O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21]C)[S]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"CN([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])[H])[O-:10])[H]>>CN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])[H])[H] 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1C)OC1=CC=CC=C1)C)C>>C(C([O-:21])C)(C(O[C:20](=[O:10])OC1=CC=CC=C1)C)C 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[O][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(C8=CC=CC=C8)[NH][C:20]([O][H])=[NH+:21]CC 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]CC)[NH]C(CC)C(C)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(CC)C(C)[NH]2.[H][O:10][H] 21=20;20,10=10"
"[O:10]([K])C(CCC)C(C)C([H])C(O)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(O)C([H])C(C)C(CCC)[O+:10]1([K]) 10=20;20,21=21"
